US05506256
C) (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[(4-methoxyphenoxy)-acetyl]pyrrolidine
(2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[l-hydroxy-2-(4-methoxyphenoxy)ethyl]pyrrolidine (10.94 g) was subjected to DMSO-DCC oxidation in the same manner as in Example 1, D) to give 10.78 g of the title compound (See Table 6).

reactant | (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[l-hydroxy-2-(4-methoxyphenoxy)ethyl]pyrrolidine | 10.94 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COC2=CC=C(C=C2)OC)O)CCC1 | C26H32N2O6
reactant | DMSO DCC | CS(=O)C.C1CCC(CC1)N=C=NC2CCCCC2
product | (2S)-1-(N-Benzyloxycarbonyl-L-prolyl)-2-[(4-methoxyphenoxy)-acetyl]pyrrolidine | 10.78 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(COC2=CC=C(C=C2)OC)=O)CCC1 | C26H30N2O6
